US08084448B2
D. 5-(2-Benzyloxy-4-thiazol-5-yl-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a mixture of PS-isocyanate resin (2.0 g) in THF (5 mL) is added tetrabutylammonium fluoride (1.0 M in THF, 2.17 mL) and the mixture is stirred at RT for 2 h. The resin is filtered off and the filtrate is added to a solution of 5-(2-benzyloxy-4-thiazol-5-yl-phenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (272 mg, 0.543 mmol) in THF (1 mL) and the mixture is stirred at 50° C. for 18 h. The reaction mixture is cooled and diluted with EtOAc, washed with 1N HCl and dried over MgSO4. The solvent is removed under reduced pressure and the residue is purified by column chromatography eluting with MeOH/EtOAc to afford the title compound as a yellow solid: (M+1)+=402.

reactant | isocyanate | 2.0 g | [N-]=C=O
reactant | tetrabutylammonium fluoride | 1.0 M, 2.17 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 5-(2-benzyloxy-4-thiazol-5-yl-phenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.543 mmol, 272 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C1=CN=CS1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C23H27N3O4S2Si
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(2-Benzyloxy-4-thiazol-5-yl-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C1=CN=CS1)N1CC(NS1(=O)=O)=O | C18H15N3O4S2
